US03948914
220 g of 4,6-dihydroxy-2-isopropyl-pyrimidine are added at 0°C to 500 ml of 100 % nitric acid and the mixture is stirred for 1 hour. Subsequently the nitration mixture is poured on ice water, filtered, washed with water, and dried in vacuo over P2O5, to yield 110 g of 4,6-dihydroxy-2-isopropyl-5-nitro-pyrimidine; mp. 300°C.

reactant | 4,6-dihydroxy-2-isopropyl-pyrimidine | 220 g | OC1=NC(=NC(=C1)O)C(C)C | C7H10N2O2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 4,6-dihydroxy-2-isopropyl-5-nitro-pyrimidine | 110 g | OC1=NC(=NC(=C1[N+](=O)[O-])O)C(C)C | C7H9N3O4
